US08859773B2
Step 3: 1-methoxyisoquinoline-7-carboxylic acid
To a solution of methyl 1-methoxyisoquinoline-7-carboxylate (443 mg, 2.04 mmol) in methanol (10 mL) was added 2 N aqueous lithium hydroxide (20 mL). The reaction was stirred at room temperature for 24 hours. The reaction mixture was diluted with 1 N aqueous hydrochloric acid and ethyl acetate. The layers were separated and the aqueous was extracted two more times with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated to afford the title compound (414 mg, 100%) as a solid. +ESI (M+H) 204.1; 1H NMR (400 MHz, DMSO-d6, δ): 13.24 (s, 1H), 8.76 (d, J=0.8 Hz, 1H), 8.18 (dd, J=8.6, 1.8 Hz, 1H), 8.11 (d, J=5.9 Hz, 1H), 7.97 (d, J=8.4 Hz, 1H), 7.45 (d, J=5.9 Hz, 1H), 4.07 (s, 3H).

reactant | methyl 1-methoxyisoquinoline-7-carboxylate | 2.04 mmol, 443 mg | COC1=NC=CC2=CC=C(C=C12)C(=O)OC | C12H11NO3
reactant | lithium hydroxide | 2 N, 20 mL | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
solvent | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methoxyisoquinoline-7-carboxylic acid | 414 mg, 100% | COC1=NC=CC2=CC=C(C=C12)C(=O)O | C11H9NO3
